* sg13cmos5l charge pump — current-steering, biased from a 5uA reference (the iDAC).
* UP high -> source Icp into vctrl (charge up); DOWN high -> sink Icp (charge down);
* both off -> hold. Test: UP pulse then DOWN pulse onto a 20pF loop-filter cap.
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

Vdd vdd 0 1.2

* --- 5uA reference (stands in for the shared iDAC) -> vbn (nmos) and vbp (pmos) ---
Ibias 0 vbn DC 5u
XMn0 vbn vbn 0   0   sg13_lv_nmos w=2u l=0.5u ng=1 m=1     ; nmos diode: sets vbn
XMn1 vbp vbn 0   0   sg13_lv_nmos w=2u l=0.5u ng=1 m=1     ; mirror -> pulls 5uA thru pmos diode
XMp0 vbp vbp vdd vdd sg13_lv_pmos w=4u l=0.5u ng=1 m=1     ; pmos diode: sets vbp

* --- charge-pump source/sink mirrors ---
XMpsrc a vbp vdd vdd sg13_lv_pmos w=4u l=0.5u ng=1 m=1     ; sources 5uA at node a
XMnsnk b vbn 0   0   sg13_lv_nmos w=2u l=0.5u ng=1 m=1     ; sinks   5uA at node b

* --- switches to vctrl (UPb-controlled pmos on top, DN-controlled nmos on bottom) ---
XMpi  upb up  vdd vdd sg13_lv_pmos w=2u l=0.13u ng=1 m=1   ; local inverter: upb = NOT up
XMni  upb up  0   0   sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XMswup vctrl upb a   vdd sg13_lv_pmos w=4u l=0.13u ng=1 m=1 ; on when up high
XMswdn vctrl dn  b   0   sg13_lv_nmos w=2u l=0.13u ng=1 m=1 ; on when dn high

* loop-filter cap (standalone test load)
Cf vctrl 0 20p

* stimulus: UP high 1..2us (charge), DOWN high 3..4us (discharge)
Vup up 0 PWL(0 0  0.99u 0  1u 1.2  2u 1.2  2.01u 0  10 0)
Vdn dn 0 PWL(0 0  2.99u 0  3u 1.2  4u 1.2  4.01u 0  10 0)

.ic v(vctrl)=0.6

.control
  tran 1n 5u uic
  meas tran v_start FIND v(vctrl) AT=0.9u
  meas tran v_up    FIND v(vctrl) AT=2.0u
  meas tran v_hold  FIND v(vctrl) AT=2.9u
  meas tran v_dn    FIND v(vctrl) AT=4.0u
  let icp_up = 20e-12*(v_up - v_start)/1e-6
  let icp_dn = 20e-12*(v_hold - v_dn)/1e-6
  print v_start v_up v_hold v_dn
  print icp_up icp_dn
  wrdata /work/cp.csv v(vctrl) v(up) v(dn)
.endc
.end
