* sg13cmos5l current-starved ring-osc VCO — tuning curve (freq vs control voltage)
.lib $PDK_ROOT/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt

.param VDDV=1.2
.param WINV=2u  LINV=0.13u
.param WSTV=1u  LSTV=0.13u

Vdd   vdd   0 {VDDV}
Vctrl vctrl 0 0.6

XMpr vbp vbp   vdd vdd sg13_lv_pmos w={WSTV} l={LSTV} ng=1 m=1
XMnr vbp vctrl 0   0   sg13_lv_nmos w={WSTV} l={LSTV} ng=1 m=1

.subckt cs_inv in out vdd vbp vctrl
XMps nph vbp   vdd vdd sg13_lv_pmos w={WSTV} l={LSTV} ng=1 m=1
XMpu out in    nph vdd sg13_lv_pmos w={WINV} l={LINV} ng=1 m=1
XMnd out in    npl 0   sg13_lv_nmos w={WINV} l={LINV} ng=1 m=1
XMns npl vctrl 0   0   sg13_lv_nmos w={WSTV} l={LSTV} ng=1 m=1
.ends

X1 n1 n2 vdd vbp vctrl cs_inv
X2 n2 n3 vdd vbp vctrl cs_inv
X3 n3 n4 vdd vbp vctrl cs_inv
X4 n4 n5 vdd vbp vctrl cs_inv
X5 n5 n6 vdd vbp vctrl cs_inv
X6 n6 n7 vdd vbp vctrl cs_inv
X7 n7 n1 vdd vbp vctrl cs_inv

.ic v(n1)=0

.control
  foreach vc 0.45 0.50 0.60 0.70 0.80 0.90 1.00 1.10 1.20
    alter Vctrl = $vc
    tran 2p 150n uic
    meas tran per TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=4
    let freq = 1/per
    echo "SWEEP vctrl=$vc"
    print freq
  end
.endc
.end
